US04032527
A mixture of 2-(4-(dimethylamino)benzoyl)-3,4,5,6-tetrachlorobenzoic acid (16.28 g.), N,N,N',N'-tetraethyl-m-phenylenediamine (9.68 g.) and acetic anhydride (10 ml.) was heated (at 91° C.) during two hours. Addition of methanol (20 ml., then 12 ml., then 10 ml.) afforded 3-(2,4-bis(diethylamino)phenyl)-3-(4-(dimethylamino)phenyl)-4,5,6,7-tetrachlorophthalide (I: X= (CH3CH2)2N, Y2 = H, Y4 = (CH3)2N, Z4 = Z5 = Z6 = Z7 = Cl) in three fractions (m.p. 174°- 176° C., m.p. 180° -181° C. and m.p. 180° -181° C.).

reactant | 2-(4-(dimethylamino)benzoyl)-3,4,5,6-tetrachlorobenzoic acid | 16.28 g | CN(C1=CC=C(C(=O)C2=C(C(=O)O)C(=C(C(=C2Cl)Cl)Cl)Cl)C=C1)C | C16H11Cl4NO3
reactant | N,N,N',N'-tetraethyl-m-phenylenediamine | 9.68 g | C(C)N(C1=CC(=CC=C1)N(CC)CC)CC | C14H24N2
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | CO | CH4O
product | 3-(2,4-bis(diethylamino)phenyl)-3-(4-(dimethylamino)phenyl)-4,5,6,7-tetrachlorophthalide | C(C)N(C1=C(C=CC(=C1)N(CC)CC)C1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C1=CC=C(C=C1)N(C)C)CC | C30H33Cl4N3O2
